US05538852
2,2',4',5'-Tetrachloro-4-methoxybiphenyl
Isoamyl nitrite (18.8 mL, 0.140 mol) was added portionwise over the course of 1 hour to a mixture of 3-chloroanisole (100 g, 0.70 mol) and 2,4,5-trichloroaniline (13.75 g, 0.070 mol) at 120° C. under nitrogen and the reaction was allowed to stir an additional 18 hours, and then distilled (0.2 mmHg, 160°-185° C.) to yield 14.07 g (62%). A 300 mg portion of the distillate was further purified via flash chromatography (silica gel, hexane eluent). Fraction 1 (32.2 mg, Rf=0.33; GC RT=14.44 minutes) was identified as 2',4,4',5'-tetrachloro-2-methoxybiphenyl. Fraction 2 (75.2 mg, Rf=0.22) contained a mixture of two products in a 40:60 ratio. Through subsequent demethylation and separation, these were determined to be the 2,2',4',5'-tetrachloro-6-methoxy and 2,2',4',5'-tetrachloro-4-methoxybiphenyl derivatives (GC retention time=14.01, 14.69 minutes respectively).

reactant | Isoamyl nitrite | 0.140 mol, 18.8 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | 3-chloroanisole | 0.70 mol, 100 g | ClC=1C=C(C=CC1)OC | C7H7ClO
reactant | 2,4,5-trichloroaniline | 0.070 mol, 13.75 g | ClC1=C(N)C=C(C(=C1)Cl)Cl | C6H4Cl3N
product | 2,2',4',5'-Tetrachloro-4-methoxybiphenyl | ClC1=C(C=CC(=C1)OC)C1=C(C=C(C(=C1)Cl)Cl)Cl | C13H8Cl4O
